US08048862B2
To a solution of Na2SO3 (10 g, 79 mmol.) in 50 mL of H2O was added a solution of ethyl 2-chloroacetate (12.7 mL, 119 mmol.) in 55 mL of EtOH. The mixture was heated at reflux for 6 h, after which time all the volatiles were removed by evaporation under reduced pressure. The concentrated materials were dried to afford crude (ethoxycarbonyl)methanesulfonic acid (13.3 g, 100%) used directly without purification.

reactant | Na2SO3 | 79 mmol, 10 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | ethyl 2-chloroacetate | 119 mmol, 12.7 mL | ClCC(=O)OCC | C4H7ClO2
solvent | H2O | 50 mL | O | H2O
solvent | EtOH | 55 mL | CCO | C2H6O
product | (ethoxycarbonyl)methanesulfonic acid | 13.3 g, 100% | C(C)OC(=O)CS(=O)(=O)O | C4H8O5S
